US03995037
STAGE B: (3'-morpholinopropoxy)-2-methoxy-3,5-dichlorobenzene
54 g of 3,5-dichloroguaiacol (0.28 mole) is added to sodium ethylate produced by reacting 6.44 g of sodium on 84 ml of ethyl alcohol. 51 g (0.28 mole + 10% excess) of 1-chloro-3-morpholinopropane is added to the resulting solution. The mixture is heated under reflux for 8 hours. Precipitation of sodium chloride is observed. Cooling is effected and then the mixture is dissolved in 300 ml of water and 30 ml of concentrated hydrochloric acid. The resulting solution is filtered, then ammonia is added to precipitate the base which is extracted with ether. The ether is eliminated and the residue is distilled under vacuum.

reactant | 3,5-dichloroguaiacol | 0.28 mole, 54 g | ClC1=C(C(=CC(=C1)Cl)OC)O | C7H6Cl2O2
reactant | sodium ethylate | CC[O-].[Na+]
reactant | sodium | 6.44 g | [Na] | Na
reactant | 1-chloro-3-morpholinopropane | 0.28 mole, 51 g | ClCCCN1CCOCC1 | C7H14ClNO
solvent | ethyl alcohol | 84 ml | C(C)O | C2H6O
product | (3'-morpholinopropoxy)-2-methoxy-3,5-dichlorobenzene | O1CCN(CC1)CCCOC1=C(C(=CC(=C1)Cl)Cl)OC | C14H19Cl2NO3
